US05731322
N-Phenyl-2-phenylhydrazono-3-oxobutyramide
4.5 g (25.4 mmol) of acetoacetanilide, a solution of 3.46 g (89 mmol) of NaOH in 45 ml of water and 95 mmol of phenyldiazonium chloride were treated as described in preparation 8. The residue was crystallised from EtOH, yielding 3.4 g of the title compound. M.p.=96°-97° C.

reactant | acetoacetanilide | 25.4 mmol, 4.5 g | C(CC(=O)C)(=O)NC1=CC=CC=C1 | C10H11NO2
reactant | NaOH | 89 mmol, 3.46 g | [OH-].[Na+]
reactant | phenyldiazonium chloride | 95 mmol | [Cl-].C1(=CC=CC=C1)[N+]#N
solvent | water | 45 ml | O | H2O
product | N-Phenyl-2-phenylhydrazono-3-oxobutyramide | 3.4 g | C1(=CC=CC=C1)NC(C(C(C)=O)=NNC1=CC=CC=C1)=O | C16H15N3O2
